US07378436B2
tert-Butyl (3R)-1-(trifluoroacetyl)pyrrolidin-3-ylcarbamate
(3R)-3-(tert-Butoxycarbonylamino)pyrrolidine (3.0 g, 16.1 mmol—commercially available from Flurochem) and pyridine (3.87 mL, 48.3 mmol) were dissolved in dichloromethane (55 mL) and the reaction mixture stirred under nitrogen at 0° C. for 1 hour. A solution of trifluoroacetic acid anhydride (2.74 mL, 32.2 mmol) in dichloromethane (5 mL) was added dropwise to the reaction mixture over 10 minutes. The reaction mixture was allowed to warm to room temperature and stirred for 2 hours. The reaction mixture was diluted with dichloromethane (100 mL) and washed with saturated sodium hydrogencarbonate solution, water and then brine. The organic layer was separated, dried over magnesium sulphate and concentrated in vacuo. The crude product was azeotroped with toluene (2×30 mL) to yield the title product.

reactant | (3R)-3-(tert-Butoxycarbonylamino)pyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
reactant | pyridine | 48.3 mmol, 3.87 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid anhydride | 32.2 mmol, 2.74 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-Butyl (3R)-1-(trifluoroacetyl)pyrrolidin-3-ylcarbamate | FC(C(=O)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)(F)F | C11H17F3N2O3
